US08017599B2
Ethyl 4-amino-1-methylimidazole-2-carboxylate (Im-3)
Im-2 (0.4 g) in EtOH/ethyl acetate (1:1, 14 mL) and Pd/C (10%, 0.3 g) were stirred under a slight positive pressure of hydrogen (ca 1.1 atm) for 3-4 hr. The reaction mixture was filtered using celite and solvent evaporated on the rotary. The remaining solid was freeze dried to yield a slightly yellow product. Yield (0.38 g, 95%). 1H NMR (DMSO): δ 6.45 (s, 1H), 4.5 (bs, 2H, NH2), 4.2 (q, 2H, J=7 Hz), 3.76 (s, 3H), 1.24 (t, 3H, J=7.9 Hz).

reactant | Ethyl 1-methyl-4-nitroimidazole-2-carboxylate | 0.4 g | CN1C(=NC(=C1)[N+](=O)[O-])C(=O)OCC | C7H9N3O4
reactant | hydrogen | [H][H] | H2
solvent | EtOH ethyl acetate | 14 mL | CCO.C(C)(=O)OCC
catalyst | Pd/C | 0.3 g | [Pd] | Pd
product | Ethyl 4-amino-1-methylimidazole-2-carboxylate | NC=1N=C(N(C1)C)C(=O)OCC | C7H11N3O2
